US07691860B2
2) Preparation of 1-cyano-4-(tert-butylsulfonylamino)piperidine
Meta-chloroperbenzoic acid (60 mg) was added to the chloroform solution (0.5 mL) containing 1-cyano-4-(tert-butylsulfinyl-amino)piperidine at room temperature, followed by stirring at the same temperature for 16 hrs. The reaction mixture was diluted with ethyl acetate, and the organic layer was washed with aqueous saturated sodium hydrogencarbonate and aqueous saturated sodium chloride solutions successively, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound (58 mg).

reactant | Meta-chloroperbenzoic acid | 60 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | chloroform | 0.5 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 1-cyano-4-(tert-butylsulfinyl-amino)piperidine | C(#N)N1CCC(CC1)NS(=O)C(C)(C)C | C10H19N3OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-cyano-4-(tert-butylsulfonylamino)piperidine | 58 mg | C(#N)N1CCC(CC1)NS(=O)(=O)C(C)(C)C | C10H19N3O2S
